US05563163
Reaction of ethyl 2-aminobenzoate with two molar equivalents of benzyl Chloride in acetone in the presence of potassium carbonate affords ethyl 2-(N,N-dibenzylamino)-benzoate which, on saponification in aqueous ethanolic potassium hydroxide and isolation of the product from a neutral medium, affords 2-(N,N-dibenzylamino)benzoic acid.

reactant | ethyl 2-aminobenzoate | NC1=C(C(=O)OCC)C=CC=C1 | C9H11NO2
reactant | benzyl Chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | ethyl 2-(N,N-dibenzylamino)-benzoate | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)C1=C(C(=O)OCC)C=CC=C1 | C23H23NO2
